US07858646B2
Synthesis of 1-(4-acetyl-2-hydroxy-3-propyl-4-{4-[3-(1H-tetrazol-5-yl)-pyridin-2-yloxy]-benzyloxy}-phenyl)-ethanone
Mix 2-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinonitrile (0.16 g, 0.40 mmol), triethylamine hydrochloride (1.11 g, 8.05 mmol), sodium azide (0.52 g, 8.05 mmol) and toluene (6 mL) in a pressure vessel. Seal and heat to 130° C. for 6 hrs. Concentrate under reduced pressure to give a residue. Dilute with ethyl acetate (25 mL) and wash with 1N hydrochloric acid (3×50 mL). Dry over magnesium sulfate, filter, and concentrate to give a residue. Purification by flash chromatography, using 40:1 Chydrochloric acid3/methanol+1% acetic acid to 20:1 chloroformchloroform/methanol+1% acetic acid as a gradient eluent gives the title compound (0.07 g, 40%): MS (m/z): 444.1 (M−1). 1H NMR (DMSO-d6) 12.88 (s, 1H), 8.57 (d, J=7.4 Hz, 1H), 8.32 (d, J=5.0 Hz, 1H), 7.84 (d, J=9.2 Hz, 1H), 7.54 (d, J=8.2 Hz, 2H), 7.38 (dd, J=5.0 Hz, 7.4 Hz, 1H), 7.29 (d, J=8.2 Hz, 2H), 6.79 (d, J=9.2 Hz, 1H), 5.31 (s, 2H), 2.62 (t, J=7.4 Hz, 2H), 2.60 (s, 3H), 1.57-1.47 (m, 2H), 0.90 (t, J=7.4 Hz, 3H).

reactant | 2-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinonitrile | 0.40 mmol, 0.16 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(OC3=C(C#N)C=CC=N3)C=C2)C=C1)CCC)O | C24H22N2O4
reactant | triethylamine hydrochloride | 8.05 mmol, 1.11 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 8.05 mmol, 0.52 g | [N-]=[N+]=[N-].[Na+]
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-acetyl-2-hydroxy-3-propyl-4-{4-[3-(1H-tetrazol-5-yl)-pyridin-2-yloxy]-benzyloxy}-phenyl)-ethanone | 0.07 g, 40% | C(C)(=O)C1(C(C(=C(C=C1)C(C)=O)O)CCC)OCC1=CC=C(C=C1)OC1=NC=CC=C1C1=NN=NN1 | C26H27N5O5
